US06906192B2
Reaction of 2-methylbenzonitrile with 1-(t-butoxy)-N,N,N′,N′-tetramethylmethanediamine to give 2-(2-dimethylaminovinyl)benzonitrile has been reported (Fisher, U. et al. Helvetica Chimica Acta, 1990, 73, 763).

reactant | 2-methylbenzonitrile | CC1=C(C#N)C=CC=C1 | C8H7N
reactant | 1-(t-butoxy)-N,N,N′,N′-tetramethylmethanediamine | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | 2-(2-dimethylaminovinyl)benzonitrile | CN(C=CC1=C(C#N)C=CC=C1)C | C11H12N2
